US06476059B1
5 g of 5-fluoro-1-indanone are dissolved in 50 ml of dry dimethylformamide, and 18.2 g of anhydrous, powdered potassium carbonate and 3.57 g of m-cresol are added. The reaction mixture is stirred at 110° C. for 6 h. The solvent is removed by distillation in vacuo, and the residue is mixed with 100 ml of water and stirred for 2 h. The aqueous residue is extracted with ethyl acetate, and the organic extract is washed 3× with water, dried over sodium sulfate, filtered and concentrated in vacuo. 5-m-Tolyloxy-1-indanone is obtained as a brown oil which is reacted further without further purification.

reactant | 5-fluoro-1-indanone | 5 g | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | m-cresol | 3.57 g | C1=C(C=CC=C1O)C | C7H8O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-m-Tolyloxy-1-indanone | C1(=CC(=CC=C1)OC=1C=C2CCC(C2=CC1)=O)C | C16H14O2
